US05786486
In 20 mL of anhydrous tetrahydrofuran, was dissolved 2.00 g (6.02 mmol) of 2,2'-(2,3-dimethoxy-1,4-phenylene)-bis(4,4-dimethyl-2-oxazoline). Thereto, 16.4 mL of 0.92M ethylmagnesium bromide solution (15.1 mmol) in tetrahydrofuran was added dropwise with ice cooling in 30 minutes, and the mixture was stirred at room temperature for 2 hours. To the reaction liquid, were added successively 10 mL of aqueous saturated ammonium chloride solution and 30 mL of water. The product was extracted from the mixture with ether, washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was removed by distillation. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:1) to obtain 1.98 g (100%) of 2,2'-(2,3-diethyl-1,4-phenylene)-bis(4,4-dimethyl-2-oxazoline) in a colorless prism crystal state.

reactant | 2,2'-(2,3-dimethoxy-1,4-phenylene)-bis(4,4-dimethyl-2-oxazoline) | 6.02 mmol, 2.00 g | COC1=C(C=CC(=C1OC)C=1OCC(N1)(C)C)C=1OCC(N1)(C)C | C18H24N2O4
reactant | ethylmagnesium bromide | 15.1 mmol, 0.92M, 16.4 mL | C(C)[Mg]Br
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | water | 30 mL | O | H2O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2,2'-(2,3-diethyl-1,4-phenylene)-bis(4,4-dimethyl-2-oxazoline) | 1.98 g, 100% | C(C)C1=C(C=CC(=C1CC)C=1OCC(N1)(C)C)C=1OCC(N1)(C)C | C20H28N2O2
